US04424205
A solution of 6.36 g 3-acetoxyphenylacetic acid and 10 ml of thionyl chloride was refluxed for one hour. The solvent was removed on a rotary evaporator, 15 ml of dry benzene was added and re-evaporated to yield crude 3-acetoxyphenylacetyl chloride. To a cooled solution of the acid chloride in 35 ml benzene was added dropwise a solution 8.9 g of octyl amine and 10 ml of ether. The reaction mixture was stirred at room temperature for three hours, the solids filtered, and the filtrate transferred to a separatory funnel and extracted with 50 ml of 1 N HCl, 50 ml of H2O and 50 ml of brine. The resulting organic solution was dried (MgSO4), filtered, and evaporated to yield 10.14 g of a mixture containing octyl 3-acetoxyphenylacetamide.

reactant | 3-acetoxyphenylacetic acid | 6.36 g | C(C)(=O)OC=1C=C(C=CC1)CC(=O)O | C10H10O4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-acetoxyphenylacetyl chloride | C(C)(=O)OC=1C=C(C=CC1)CC(=O)Cl | C10H9ClO3
